US09107916B2
A. ethyl (E)-3-(dimethylamino)-2-methylprop-2-enoate
A solution of N,N,N′,N′-tetramethyl-1-[(2-methylpropan-2-yl)oxy]methanediamine (2.47 g, 14.19 mmol), ethyl propionate (2.17 g, 21.27 mmol) and DMF (2 mL) in a sealed tube was heated to 90° C. for 24 h. Then extracted with ethyl acetate, collected the organic phase and washed with water, brine and dried with anhydrous sodium sulfate. Organic phase was concentrated and purified by silica gel chromatograph to give 0.68 g of the title compound (30%). 1H NMR (400 MHz, CDCl3): δ 1.24 (3H, t, J=7.2 Hz), 1.95 (3H, s), 3.00 (6H, s), 4.11 (2H, q, J=7.2 Hz), 7.28 (1H, s). [M+H] Calc'd for C8H15NO2, 158. Found, 158.

reactant | N,N,N′,N′-tetramethyl-1-[(2-methylpropan-2-yl)oxy]methanediamine | 14.19 mmol, 2.47 g | CN(C(N(C)C)OC(C)(C)C)C | C9H22N2O
reactant | ethyl propionate | 21.27 mmol, 2.17 g | C(CC)(=O)OCC | C5H10O2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | ethyl (E)-3-(dimethylamino)-2-methylprop-2-enoate | 0.68 g, 30% | CN(/C=C(/C(=O)OCC)\C)C | C8H15NO2
